US07855216B2
Trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester
2-Fluoro-4-trimethylsilanyl-phenol (78.5 g, 0.43 mol) was dissolved in CH2Cl2 (500 mL) and pyridine (101 g, 1.28 mmol) added. The solution was cooled to 0-5° C. and treated dropwise with trifluoromethanesulfonic anhydride (126.3 g, 0.45 mol) in CH2Cl2 (100 mL) over 30 minutes and the resulting mixture was stirred cold for a further 15 minutes. The yellow solution was poured into 2M hydrochloric acid and the layers separated. The organic layer was washed with water, aqueous NaHCO3 solution, brine, dried (MgSO4) and solvent evaporated in vacuo. The resultant residue was dissolved in cyclohexane and stirred with flash silica and filtered. The filtrate was concentrated in vacuo to yield the title compound as a colourless liquid (123 g, 91% yield). 1H NMR (CDCl3) 7.35 (1H, m), 7.30-7.27 (2H, m), and 0.29 (9H, s).

reactant | 2-Fluoro-4-trimethylsilanyl-phenol | 0.43 mol, 78.5 g | FC1=C(C=CC(=C1)[Si](C)(C)C)O | C9H13FOSi
reactant | pyridine | 1.28 mmol, 101 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.45 mol, 126.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 123 g, 91% yield | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
